US06756378B2
A mixture of methyl 4-(4,4-difluoro-2-pyrrolidinylmethoxy)benzoate (229 mg, 0.845 mmol), 4-[N′-(2-chlorophenyl)ureido]-3-methoxyphenylacetic acid (283 mg, 0.845 mmol), EDC.HCl (243 mg, 1.27 mmol), HOBt (cat.), DMAP (cat.), and DMF (10 ml) was stirred overnight. The mixture was diluted with EtOAc (300 ml). The solution was washed with brine (2×100 ml), dried over MgSO4, and concntrated in vacuo. The residue was chromatographed on silica gel with CHCl3-EtOAc (20:1 to 4:1) as eluent to give methyl 4-[1-[4-[N′-(2-chlorophenyl)ureido]-3-methoxyphenylacetyl]-4,4-difluoro-2-pyrrolidinylmethoxy]benzoate (482 mg, 97%) as a colorless viscous solid. 1H-NMR (CDCl3) δ2.50-2.67 (m, 2 H), 3.54-4.71 (series of m, 13 H), 6.69 (d, J=1.5 Hz, 1 H), 6.76 (d, J=8.3 Hz, 1 H), 6.84 (d, J=8.8 Hz, 2 H), 6.98 (dt, J=7.8, 1.5 Hz, 1 H), 7.23-7.27 (m, 1 H), 7.33 (d, J=8.3 Hz, 1 H), 7.39 (m, 2 H), 7.94 (d, J=8.8 Hz, 2 H), 8.00 (d, J=8.3 Hz, 1 H), 8.19 (dd, J=8.3, 1.5 Hz, 1 H).

reactant | methyl 4-(4,4-difluoro-2-pyrrolidinylmethoxy)benzoate | 0.845 mmol, 229 mg | FC1(CC(NC1)COC1=CC=C(C(=O)OC)C=C1)F | C13H15F2NO3
reactant | 4-[N′-(2-chlorophenyl)ureido]-3-methoxyphenylacetic acid | 0.845 mmol, 283 mg | ClC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)O)OC)=O | C16H15ClN2O4
reactant | EDC.HCl | 1.27 mmol, 243 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 300 ml | CCOC(=O)C | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 4-[1-[4-[N′-(2-chlorophenyl)ureido]-3-methoxyphenylacetyl]-4,4-difluoro-2-pyrrolidinylmethoxy]benzoate | 482 mg, 97% | ClC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)N1C(CC(C1)(F)F)COC1=CC=C(C(=O)OC)C=C1)OC)=O | C29H28ClF2N3O6
